US05102667
N,N'-Carbonyldiimidazole (1.13 g) is added to a solution of 2-(2-(trifluoromethyl)phenyl)acetic acid (1.42 g) in dry dichloromethane (30 cc), cooled to +5° C. The mixture is stirred for 1 hour 45 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (2.3 g) and triethylamine (0.98 cc) in dichloromethane (40 cc) is then added. The reaction mixture is stirred at 20° C. for 18 hours, then washed with distilled water (3×50 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from acetonitrile (10 cc). The crystals obtained are drained, washed with isopropyl ether (10 cc) and dried. (3aRS,7aRS)-7,7-diphenyl-2-[(2-(trifluoromethyl)phenyl)acetyl]-4-perhydroisoindolone (1.68 g) melting at 207° C. is obtained.

reactant | 2-(2-(trifluoromethyl)phenyl)acetic acid | 1.42 g | FC(C1=C(C=CC=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 2.3 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 0.98 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 40 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-diphenyl-2-[(2-(trifluoromethyl)phenyl)acetyl]-4-perhydroisoindolone | 1.68 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)C(F)(F)F)=O)=O)C1=CC=CC=C1 | C29H26F3NO2
